US04879388
1-Bromo-2-hexyldecane was prepared by reacting 2-hexyldecanol with hydrogen bromide gas, or with 47% aqueous hydrogen bromide, according to well known procedures. The crude product was purified by distillation, b.p. 152°-154° at 18 mm of mercury.

reactant | 2-hexyldecanol | C(CCCCC)C(CO)CCCCCCCC | C16H34O
reactant | hydrogen bromide | Br | BrH
product | 1-Bromo-2-hexyldecane | BrCC(CCCCCCCC)CCCCCC | C16H33Br
